Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Epigastric pain and vomiting
 
Major Surgical or Invasive Procedure:
EGD (___): 
- Grade C distal esophagitis
- Esophageal hiatal hernia
- Normal mucos in the whole stomach with ?blood vs chewing
tobacco in the stomach
- Normal mucosa in the duodenum

 
History of Present Illness:
Mr. ___ is a ___ male with the a PMH of GI
bleed, TBI, who has a legal guardian who is presenting with
"coffee ground emesis x2 days". History obtained from patient 
and
staff at ___ (___ where he has lived ___
years) 
     He has had 2 days of vomiting associated with epigastric
pain.  Has had episodes the night prior and on morning of
admission. ___ house staff brought him to ___ (where he
gets most of his care), but they "did not work up the vomiting". 

Staff was still concerned so they brought him to ___. Vomiting
was moderate in the morning but improved now. unclear trigger-
however patient is known to chew and swallow chewing tobacco and
it is possible this could have happened on ___ during the
day/night. Not associated with food. Having normal BMs.  No
lightheadedness, diarrhea, constipation, dizziness. 

In ED: 
Vitals: T98.3, HR 102->93, BP 121/80, 98% on RA, RR 18
Labs: Hgb 10.8, WBC 10.1, INR 1.4. plts 327
Exam: epigastric tenderness, stool brown, guaiac negative. 
Meds: pantoprazole 40mg IV
Consult GI: plan for EGD tomorrow. NPO midnight

On hospital floor: Patient feeling well.  No complaints.  no
nausea, vomiting. 

ROS: 10 point review of systems negative unless otherwise noted
in HPI

 
Past Medical History:
GI bleed ___ gastric ulcer
remote alcohol abuse
Traumatic Brain Injury (conserved)
 
Social History:
___
Family History:
No family history of GI bleed. 
 
Physical Exam:
Physical Exam on Admission
VITALS: Afebrile and vital signs stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, MILD EPIGATRIC TENDERNESS to
palpation.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented only to person.  does not known the date
but then read it off the wall calendar.  face symmetric, gaze
conjugate with EOMI, speech fluent, moves all limbs, sensation 
to
light touch grossly intact throughout
PSYCH: pleasant, appropriate affect

Physical exam on discharge
VS WNL
GENERAL: Alert, lying comfortably in bed
EYES: Anicteric, PERRL
ENT: Ears and nose without visible erythema, masses, or trauma. 
MMM
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild epigastric TTP.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert + oriented only to person. FROM x 4 extremities
PSYCH: Crying when discussing guilt of using chewing tobacco
 
Pertinent Results:
___ 03:12PM   COMMENTS-GREEN TOP
___ 03:12PM   K+-4.7
___ 01:45PM   GLUCOSE-124* UREA N-29* CREAT-1.0 SODIUM-140 
POTASSIUM-6.4* CHLORIDE-104 TOTAL CO2-24 ANION GAP-12
___ 01:45PM   estGFR-Using this
___ 01:45PM   ALT(SGPT)-10 AST(SGOT)-40 ALK PHOS-70 TOT 
BILI-0.8
___ 01:45PM   LIPASE-25
___ 01:45PM   cTropnT-<0.01
___ 01:45PM   ALBUMIN-3.5 CALCIUM-8.4 PHOSPHATE-2.7 
MAGNESIUM-1.9
___ 01:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 01:45PM   WBC-10.1* RBC-3.96* HGB-10.8* HCT-34.9* 
MCV-88 MCH-27.3 MCHC-30.9* RDW-18.2* RDWSD-58.8*
___ 01:45PM   NEUTS-92.5* LYMPHS-3.9* MONOS-3.0* EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-9.34* AbsLymp-0.39* AbsMono-0.30 
AbsEos-0.01* AbsBaso-0.02
___ 01:45PM   PLT COUNT-327
___ 01:45PM   ___ PTT-33.1 ___

Hb: 10.8 --> 9.7 --> 9.8 --> 9.7 --> 9.7
Plt 309 (stable)
INR 1.4 --> 1.1
Chem/AST/ALT/TBili/Lipase WNL

EGD (___): 
- Grade C distal esophagitis
- Esophageal hiatal hernia
- Normal mucos in the whole stomach with ?blood vs chewing
tobacco in the stomach
- Normal mucosa in the duodenum

 
Brief Hospital Course:
Mr. ___ is a ___ male with the a PMH of gastric
ulcer and TBI c/b VST on apixiban (conserved) who presents with
epigastric abdominal pain and "coffee ground emesis"

Endorsed 2 days of epigastric pain with associated coffee ground
emesis. Of note, he swallows his chewing tobacco. Halfway house
staff brought him to ___ (where he gets most of his
care), but they "did not work up the vomiting". Staff was still
concerned so they brought him to ___. Vomiting
was moderate in the morning but improved upon admission to 
___.
Having normal brown BMs. Guiac neg in ED.  No lightheadedness,
diarrhea, constipation, dizziness. Underwent EGD (___) with only
e/o esophagitis (no gastritis or PUD). Despite remaining HDS, 
his
Hb was noted to drop from 10.8 to 9.7 which prompted his
inpatient hospitalization. Epigastric pain and vomiting is 
thought to be ___ his ingestion of chewing tobacco. He was 
started on a nicotine patch to assist with his cessation

HB remained stable x 3, tolerating PO, without any abdominal 
pain. 

ACUTE/ACTIVE PROBLEMS:
#Epigastric abdominal pain
#Coffee ground emesis
EGD revealing distal esophagitis but no source of bleeding. Most
likely etiology of coffee ground emesis likely partially 
digested
chewing tobacco. Hb stable. Started on Nicotine patch QD for 
nicotine use disorder. Started on Omeprazole 20mg PO BID for e/o 
GERD

CHRONIC/STABLE PROBLEMS:
#Venous sinus thrombosis: No evidence of active bleeding.
Risk/benefit analysis would render more benefit from apixiban
than risk given no source of bleed and likely alternative source
of coffee ground emesis (chewing tobacco)
- C/w Apixiban 5mg PO BID
- C/w Atorva 40mg PO QD

#TBI: Conserved. Spoke with brother ___ with
all questions answered. Agreed with plan to discharge back to
___ in ___ if Hb stable
- c/w home Seroquel 50mg PO BID

#Asthma
- C/w home albuterol PRN

To do
[]Plan is for continued outpatient management of his nicotine 
use disorder

> 30 minutes spent on discharge planning, management and 
coordination of care

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Famotidine 20 mg PO BID 
3. QUEtiapine Fumarate 50 mg PO BID 
4. Apixaban 5 mg PO BID 
5. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Wheezing 
6. Albuterol Inhaler 2 PUFF IH Q4H:PRN Wheezing 

 
Discharge Medications:
1.  Nicotine Patch 14 mg TD DAILY:PRN Tobacco withdrawal 
RX *nicotine 14 mg/24 hour Please apply patch from 7am-7pm once 
a day Disp #*30 Patch Refills:*0 
2.  Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN Wheezing  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN Wheezing  
5.  Apixaban 5 mg PO BID  
6.  Atorvastatin 40 mg PO QPM  
7.  QUEtiapine Fumarate 50 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Esophagitis and vomiting of ingested chewing tobacco

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for abdominal pain and vomiting. We performed 
a procedure where we looked inside your stomach and fortunately 
did not find any source of bleeding. We recommend using the 
nicotine patch as prescribed to help stop using chewing tobacco.

It was a pleasure taking care of you

- Your ___ team 
 
Followup Instructions:
___